### PR TITLE
[Merged by Bors] - feat port: Data.Set.Lattice

### PR DESCRIPTION
**Pull request by ChrisHughes24**
Mostly name changes. The proof of `subset_bunionᵢ_of_mem` needed a bunch of explicit arguments for some reason. I also moved the definition of `set.sUnion` from `Init.Set` into this file and changed its name. I also `protected` the definition of `Set.compl`

### CODE REVIEW

**Comment by ChrisHughes24** [comment]
Probably a good idea to do a `mathport` oneshot on the rest of the file since a bunch of `#align`s are needed from `Order.Lattice` which was not ported since the last `mathlib3port`

File: Mathlib/Data/Set/Lattice.lean [hunk 1]
```diff
@@ -0,0 +1,2522 @@
...
+def kernImage (f : α → β) (s : Set α) : Set β :=
+  { y | ∀ ⦃x⦄, f x = y → x ∈ s }
+#align set.kern_image Set.kernImage
+
+protected theorem preimage_kern_image : GaloisConnection (preimage f) (kernImage f) := fun a _ =>
+  ⟨fun h _ hx y hy =>
+    have : f y ∈ a := hy.symm ▸ hx
+    h this,
+    fun h x (hx : f x ∈ a) => h hx rfl⟩
+#align set.preimage_kern_image Set.preimage_kern_image
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Set/Lattice.lean:277]:
```suggestion
protected theorem preimage_kernImage : GaloisConnection (preimage f) (kernImage f) := fun a _ =>
  ⟨fun h _ hx y hy =>
    have : f y ∈ a := hy.symm ▸ hx
    h this,
    fun h x (hx : f x ∈ a) => h hx rfl⟩
#align set.preimage_kern_image Set.preimage_kernImage
```

File: Mathlib/Data/Set/Lattice.lean [hunk 2]
```diff
@@ -0,0 +1,2522 @@
...
+
+section GaloisConnection
+
+variable {f : α → β}
+
+protected theorem image_preimage : GaloisConnection (image f) (preimage f) := fun _ _ =>
+  image_subset_iff
+#align set.image_preimage Set.image_preimage
+
+/-- `kern_image f s` is the set of `y` such that `f ⁻¹ y ⊆ s`. -/
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Set/Lattice.lean:267]:
```suggestion
/-- `kernImage f s` is the set of `y` such that `f ⁻¹ y ⊆ s`. -/
```

File: Mathlib/Data/Set/Lattice.lean [hunk 3]
```diff
@@ -0,0 +1,2522 @@
...
+  rw [diff_eq, compl_interᵢ, inter_unionᵢ]; rfl
+#align set.diff_Inter Set.diff_interᵢ
+
+theorem directed_on_unionᵢ {r} {f : ι → Set α} (hd : Directed (· ⊆ ·) f)
+    (h : ∀ x, DirectedOn r (f x)) : DirectedOn r (⋃ x, f x) := by
+  simp only [DirectedOn, exists_prop, mem_unionᵢ, exists_imp];
+    exact fun a₁ b₁ fb₁ a₂ b₂ fb₂ =>
+      let ⟨z, zb₁, zb₂⟩ := hd b₁ b₂
+      let ⟨x, xf, xa₁, xa₂⟩ := h z a₁ (zb₁ fb₁) a₂ (zb₂ fb₂)
+      ⟨x, ⟨z, xf⟩, xa₁, xa₂⟩
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Set/Lattice.lean:624]:
```suggestion
  simp only [DirectedOn, exists_prop, mem_unionᵢ, exists_imp]
  exact fun a₁ b₁ fb₁ a₂ b₂ fb₂ =>
    let ⟨z, zb₁, zb₂⟩ := hd b₁ b₂
    let ⟨x, xf, xa₁, xa₂⟩ := h z a₁ (zb₁ fb₁) a₂ (zb₂ fb₂)
    ⟨x, ⟨z, xf⟩, xa₁, xa₂⟩
```

File: Mathlib/Data/Set/Lattice.lean [hunk 4]
```diff
@@ -0,0 +1,2522 @@
...
+theorem union_distrib_interᵢ₂_right (s : ∀ i, κ i → Set α) (t : Set α) :
+    (⋂ (i) (j), s i j) ∪ t = ⋂ (i) (j), s i j ∪ t := by simp_rw [union_distrib_interᵢ_right]
+#align set.union_distrib_Inter₂_right Set.union_distrib_interᵢ₂_right
+
+section Function
+
+/-! ### `maps_to` -/
+
+
+theorem maps_to_unionₛ {S : Set (Set α)} {t : Set β} {f : α → β} (H : ∀ s ∈ S, MapsTo f s t) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Set/Lattice.lean:1482]:
```suggestion
theorem mapsTo_unionₛ {S : Set (Set α)} {t : Set β} {f : α → β} (H : ∀ s ∈ S, MapsTo f s t) :
```
and also in several lemmas below

File: Mathlib/Data/Set/Lattice.lean [hunk 5]
```diff
@@ -0,0 +1,2522 @@
...
+  rw [Hinj.image_interᵢ_eq, mem_interᵢ]
+  exact fun i => H i hy
+#align set.surj_on_Inter Set.surjOn_interᵢ
+
+theorem surjOn_interᵢ_interᵢ [Nonempty ι] {s : ι → Set α} {t : ι → Set β} {f : α → β}
+    (H : ∀ i, SurjOn f (s i) (t i)) (Hinj : InjOn f (⋃ i, s i)) : SurjOn f (⋂ i, s i) (⋂ i, t i) :=
+  surjOn_interᵢ (fun i => (H i).mono (Subset.refl _) (interᵢ_subset _ _)) Hinj
+#align set.surj_on_Inter_Inter Set.surjOn_interᵢ_interᵢ
+
+/-! ### `bij_on` -/
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Set/Lattice.lean:1711]:
```suggestion
/-! ### `BijOn` -/
```

File: Mathlib/Data/Set/Lattice.lean [hunk 6]
```diff
@@ -0,0 +1,2522 @@
...
+theorem bijective_iff_bijective_of_unionᵢ_eq_univ :
+    Bijective f ↔ ∀ i, Bijective ((U i).restrictPreimage f) := by
+  rw [Bijective, injective_iff_injective_of_unionᵢ_eq_univ hU,
+    surjective_iff_surjective_of_unionᵢ_eq_univ hU]
+  simp [Bijective, forall_and]
+#align set.bijective_iff_bijective_of_Union_eq_univ Set.bijective_iff_bijective_of_unionᵢ_eq_univ
+
+end
+
+/-! ### `inj_on` -/
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Set/Lattice.lean:1606]:
```suggestion
/-! ### `InjOn` -/
```

File: Mathlib/Data/Set/Lattice.lean [hunk 7]
```diff
@@ -0,0 +1,2522 @@
...
+theorem inj_on_unionᵢ_of_directed {s : ι → Set α} (hs : Directed (· ⊆ ·) s) {f : α → β}
+    (hf : ∀ i, InjOn f (s i)) : InjOn f (⋃ i, s i) := by
+  intro x hx y hy hxy
+  rcases mem_unionᵢ.1 hx with ⟨i, hx⟩
+  rcases mem_unionᵢ.1 hy with ⟨j, hy⟩
+  rcases hs i j with ⟨k, hi, hj⟩
+  exact hf k (hi hx) (hj hy) hxy
+#align set.inj_on_Union_of_directed Set.inj_on_unionᵢ_of_directed
+
+/-! ### `surj_on` -/
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Set/Lattice.lean:1669]:
```suggestion
/-! ### `SurjOn` -/
```

File: Mathlib/Data/Set/Lattice.lean [hunk 8]
```diff
@@ -0,0 +1,2522 @@
...
+#align function.surjective.Inter_comp Function.Surjective.interᵢ_comp
+
+end Surjective
+
+end Function
+
+/-!
+### Disjoint sets
+
+We define some lemmas in the `disjoint` namespace to be able to use projection notation.
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Set/Lattice.lean:2156]:
```suggestion
We define some lemmas in the `Disjoint` namespace to be able to use projection notation.
```

File: Mathlib/Data/Set/Lattice.lean [hunk 9]
```diff
@@ -0,0 +1,2522 @@
...
+theorem mem_interₛ {x : α} {S : Set (Set α)} : x ∈ ⋂₀ S ↔ ∀ t ∈ S, x ∈ t :=
+  Iff.rfl
+#align set.mem_sInter Set.mem_interₛ
+
+@[simp]
+theorem mem_unionₛ {x : α} {S : Set (Set α)} : x ∈ ⋃₀S ↔ ∃ t ∈ S, x ∈ t :=
+  Iff.rfl
+#align set.mem_sUnion Set.mem_unionₛ
+
+/- warning: set.Union -> Set.union is a dubious translation:
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Set/Lattice.lean:103]: I think you can remove these warnings

File: Mathlib/Data/Set/Lattice.lean [hunk 10]
```diff
@@ -0,0 +1,2522 @@
...
+#align set.mem_Union Set.mem_unionᵢ
+
+@[simp]
+theorem mem_interᵢ {x : α} {s : ι → Set α} : (x ∈ ⋂ i, s i) ↔ ∀ i, x ∈ s i :=
+  ⟨fun (h : ∀ a ∈ { a : Set α | ∃ i, s i = a }, x ∈ a) a => h (s a) ⟨a, rfl⟩,
+    fun h _ ⟨a, (eq : s a = _)⟩ => eq ▸ h a⟩
+#align set.mem_Inter Set.mem_interᵢ
+
+/- ./././Mathport/Syntax/Translate/Expr.lean:107:6: warning: expanding binder group (i j) -/
+theorem mem_unionᵢ₂ {x : γ} {s : ∀ i, κ i → Set γ} : (x ∈ ⋃ (i) (j), s i j) ↔ ∃ i j, x ∈ s i j := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Set/Lattice.lean:164]: Can you check if this is broken now?
```suggestion
theorem mem_unionᵢ₂ {x : γ} {s : ∀ i, κ i → Set γ} : (x ∈ ⋃ (i j), s i j) ↔ ∃ i j, x ∈ s i j := by
```

**Review by Ruben-VandeVelde — DISMISSED** [review]

File: Mathlib/Data/Set/Lattice.lean (hunk 3 above)
Comment (kbuzzard) [inline Mathlib/Data/Set/Lattice.lean:624]:
```suggestion
  simp only [DirectedOn, exists_prop, mem_unionᵢ, exists_imp]
  exact fun a₁ b₁ fb₁ a₂ b₂ fb₂ =>
    let ⟨z, zb₁, zb₂⟩ := hd b₁ b₂
    let ⟨x, xf, xa₁, xa₂⟩ := h z a₁ (zb₁ fb₁) a₂ (zb₂ fb₂)
    ⟨x, ⟨z, xf⟩, xa₁, xa₂⟩
```
Not sure why that semicolon was there? Autoporter suggested <;> but there's only one goal.

File: Mathlib/Data/Set/Lattice.lean [hunk 11]
```diff
@@ -0,0 +1,2522 @@
...
+#align set.Inter_eq_univ Set.interᵢ_eq_univ
+
+@[simp]
+theorem nonempty_unionᵢ : (⋃ i, s i).Nonempty ↔ ∃ i, (s i).Nonempty := by
+  simp [nonempty_iff_ne_empty]
+#align set.nonempty_Union Set.nonempty_unionᵢ
+
+--Porting note: removing `simp`. `simp` can prove it
+theorem nonempty_bunionᵢ {t : Set α} {s : α → Set β} :
+    (⋃ i ∈ t, s i).Nonempty ↔ ∃ i ∈ t, (s i).Nonempty := by simp [nonempty_iff_ne_empty]
```
Comment (kbuzzard) [inline Mathlib/Data/Set/Lattice.lean:768]:
```suggestion
    (⋃ i ∈ t, s i).Nonempty ↔ ∃ i ∈ t, (s i).Nonempty := by simp
```
If `simp` can prove it, we may as well not distract it.

File: Mathlib/Data/Set/Lattice.lean [hunk 12]
```diff
@@ -0,0 +1,2522 @@
...
+/-- A specialization of `mem_interᵢ₂`. -/
+theorem mem_binterᵢ {s : Set α} {t : α → Set β} {y : β} (h : ∀ x ∈ s, y ∈ t x) :
+    y ∈ ⋂ x ∈ s, t x :=
+  mem_interᵢ₂_of_mem h
+#align set.mem_bInter Set.mem_binterᵢ
+
+/-- A specialization of `subset_unionᵢ₂`. -/
+theorem subset_bunionᵢ_of_mem {s : Set α} {u : α → Set β} {x : α} (xs : x ∈ s) :
+    u x ⊆ ⋃ x ∈ s, u x :=
+--Porting note: Why is this not just `subset_unionᵢ₂ x xs`?
```
Comment (kbuzzard) [inline Mathlib/Data/Set/Lattice.lean:908]: Good question! Is it worth asking in #lean4 ?

File: Mathlib/Data/Set/Lattice.lean [hunk 13]
```diff
@@ -0,0 +1,2522 @@
...
+#align set.bUnion_self Set.bunionᵢ_self
+
+@[simp]
+theorem unionᵢ_nonempty_self (s : Set α) : (⋃ _h : s.Nonempty, s) = s := by
+  rw [unionᵢ_nonempty_index, bunionᵢ_self]
+#align set.Union_nonempty_self Set.unionᵢ_nonempty_self
+
+-- TODO(Jeremy): here is an artifact of the encoding of bounded intersection:
+-- without dsimp, the next theorem fails to type check, because there is a lambda
+-- in a type that needs to be contracted. Using simp [eq_of_mem_singleton xa] also works.
```
Comment (kbuzzard) [inline Mathlib/Data/Set/Lattice.lean:1000]: This TODO is incomprehensible and might well have been for some time. There is no `dsimp` any more. Remove? The TODO was written 5 years ago when the proof was
```
@[simp]
theorem bInter_singleton (a : α) (s : α → set β) : (⋂ x ∈ ({a} : set α), s x) = s a :=
show (⨅ x ∈ ({a} : set α), s x) = s a, by simp
```

File: Mathlib/Data/Set/Lattice.lean [hunk 14]
```diff
@@ -0,0 +1,2522 @@
...
+theorem binterᵢ_union (s t : Set α) (u : α → Set β) :
+    (⋂ x ∈ s ∪ t, u x) = (⋂ x ∈ s, u x) ∩ ⋂ x ∈ t, u x :=
+  infᵢ_union
+#align set.bInter_union Set.binterᵢ_union
+
+theorem binterᵢ_insert (a : α) (s : Set α) (t : α → Set β) :
+    (⋂ x ∈ insert a s, t x) = t a ∩ ⋂ x ∈ s, t x := by simp
+#align set.bInter_insert Set.binterᵢ_insert
+
+-- TODO(Jeremy): another example of where an annotation is needed
```
Comment (kbuzzard) [inline Mathlib/Data/Set/Lattice.lean:1014]: No annotation is here. The proof used to be `by rw insert_of_has_insert; simp` five years ago.

File: Mathlib/Data/Set/Lattice.lean [hunk 15]
```diff
@@ -0,0 +1,2522 @@
...
+theorem nonempty_interᵢ {f : ι → Set α} : (⋂ i, f i).Nonempty ↔ ∃ x, ∀ i, x ∈ f i := by
+  simp [nonempty_iff_ne_empty, interᵢ_eq_empty_iff]
+#align set.nonempty_Inter Set.nonempty_interᵢ
+
+/- ./././Mathport/Syntax/Translate/Expr.lean:107:6: warning: expanding binder group (i j) -/
+-- classical
+--Porting note: removing `simp`. `simp` can prove it
+theorem nonempty_interᵢ₂ {s : ∀ i, κ i → Set α} :
+    (⋂ (i) (j), s i j).Nonempty ↔ ∃ a, ∀ i j, a ∈ s i j := by
+  simp [nonempty_iff_ne_empty, interᵢ_eq_empty_iff]
```
Comment (kbuzzard) [inline Mathlib/Data/Set/Lattice.lean:1288]:
```suggestion
  simp
```

**Review by kbuzzard — APPROVED** [review]
A monumental effort! I approve modulo the things I flagged.

File: Mathlib/Data/Set/Lattice.lean [hunk 16]
```diff
@@ -0,0 +1,2522 @@
...
+    le_infₛ := fun s t h a a_in t' t'_in => h t' t'_in a_in
+    infₛ_le := fun s t t_in a h => h _ t_in
+    infᵢ_sup_le_sup_infₛ := fun s S x => Iff.mp <| by simp [forall_or_left]
+    inf_supₛ_le_supᵢ_inf := fun s S x => Iff.mp <| by simp [exists_and_left] }
+
+/-- `set.image` is monotone. See `set.image_image` for the statement in terms of `⊆`. -/
+theorem monotone_image {f : α → β} : Monotone (image f) := fun _ _ => image_subset _
+#align set.monotone_image Set.monotone_image
+
+theorem _root_.Monotone.inter [Preorder β] {f g : β → Set α} (hf : Monotone f) (hg : Monotone g) :
```
[the remark this answers is not in the document]
Comment (ChrisHughes24) [reply Mathlib/Data/Set/Lattice.lean:206]: The #align made an error so these are easy to spot.

File: Mathlib/Data/Set/Lattice.lean [hunk 17]
```diff
@@ -0,0 +1,2522 @@
...
+
+theorem setOf_forall (p : ι → β → Prop) : { x | ∀ i, p i x } = ⋂ i, { x | p i x } :=
+  ext fun _ => mem_interᵢ.symm
+#align set.set_of_forall Set.setOf_forall
+
+theorem unionᵢ_subset {s : ι → Set α} {t : Set α} (h : ∀ i, s i ⊆ t) : (⋃ i, s i) ⊆ t :=
+  @supᵢ_le (Set α) _ _ _ _ h
+#align set.Union_subset Set.unionᵢ_subset
+
+/- ./././Mathport/Syntax/Translate/Expr.lean:107:6: warning: expanding binder group (i j) -/
```
[the remark this answers is not in the document]
Comment (PatrickMassot) [reply Mathlib/Data/Set/Lattice.lean:343]: That's a very good question. There were lots of them in `Order.CompleteLattice` and I wanted to ask but the PR was merged before I could do it.

[the remark this answers is not in the document]
Comment (ChrisHughes24) [reply Mathlib/Data/Set/Lattice.lean:343]: I think it's because `⋃ (i j)` was replaced with `⋃ (i) (j)`. This first of these doesn't work in Lean4

File: Mathlib/Data/Set/Lattice.lean [hunk 18]
```diff
@@ -0,0 +1,2522 @@
...
+    (⋃ n, f (n + k)) = ⋃ n, f n :=
+  hf.supᵢ_nat_add k
+#align monotone.Union_nat_add Monotone.unionᵢ_nat_add
+
+theorem _root_.Antitone.interᵢ_nat_add {f : ℕ → Set α} (hf : Antitone f) (k : ℕ) :
+    (⋂ n, f (n + k)) = ⋂ n, f n :=
+  hf.infᵢ_nat_add k
+#align antitone.Inter_nat_add Antitone.interᵢ_nat_add
+
+--Porting note: removing `simp`. LHS does not simplify
```
[the remark this answers is not in the document]
Comment (ChrisHughes24) [reply Mathlib/Data/Set/Lattice.lean]: I added a link to the Zulip discussion https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/complete_lattice.20and.20has_sup/near/316497982

File: Mathlib/Data/Set/Lattice.lean [hunk 19]
```diff
@@ -0,0 +1,2522 @@
...
+instance : SupSet (Set α) :=
+  ⟨fun s => { a | ∃ t ∈ s, a ∈ t }⟩
+
+/-- Intersection of a set of sets. -/
+def interₛ (S : Set (Set α)) : Set α :=
+  infₛ S
+#align set.sInter Set.interₛ
+
+/-- Notation for `Set.interₛ` Intersection of a set of sets. -/
+prefix:110 "⋂₀ " => interₛ
```
[the remark this answers is not in the document]
Comment (jcommelin) [reply Mathlib/Data/Set/Lattice.lean:82]: Makes sense, but maybe we do it after the port?

**Comment by negiizhao** [comment]
I believe this just needs to remove some lemmas in `Data.Set.Lattice`.

**Comment by eric-wieser** [comment]
That sounds like an argument in favor of merging #1109 first?

**Comment by negiizhao** [comment]
Both are easy to deal with. To ensure that no more lemmas are removed by mistake, it might be better to merge #1121 first (then we can compare the diffs).

**Comment by jcommelin** [comment]
Let's merge this. Then we can move forward with #1109.
If @kbuzzard's question needs to be addressed, then that can be done in a future PR.

bors merge
